US06207461B1
Preparation of platinum(I) tetraphenyltetrabenzoporphyrin
2.0 g (2 mmol) of platinum(II) tetraphenylcyclohexenoporphyrin according to Example B2 are mixed with 4.5 g (20 mmol) of 2,3-dichloro-5,6-dicyano-1,4-benzoquinone and 400 ml of toluene, and the mixture is heated at reflux for one hour. After cooling, the reaction mixture is taken up in methanol and filtered. There are obtained 1.8 g of crude product, which is dissolved in chloroform and then subjected to flash chromatography on silica gel. The green eluates are combined and the chloroform is removed in vacuo at 60° C. 1.4 g (71%) of a microcrystalline green powder are obtained.

reactant | platinum(II) | 2 mmol, 2.0 g | [Pt+2]
reactant | 2,3-dichloro-5,6-dicyano-1,4-benzoquinone | 20 mmol, 4.5 g | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
reactant | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
solvent | methanol | CO | CH4O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | platinum(I) tetraphenyltetrabenzoporphyrin | 1.4 g, 71% | C1(=CC=CC=C1)C=1C=2C3=C(C(=C(C4=C5C(=C(C(=C6C7=C(C(C(=C8C9=C(C1N8)C=CC=C9)C9=CC=CC=C9)=N6)C=CC=C7)C7=CC=CC=C7)N4)C=CC=C5)C5=CC=CC=C5)N2)C=CC=C3.[Pt+] | InChI=1S/C60H38N4.Pt/c1-5-21-37(22-6-1)49-53-41-29-13-15-31-43(41)55(61-53)50(38-23-7-2-8-24-38)57-45-33-17-19-35-47(45)59(63-57)52(40-27-11-4-12-28-40)60-48-36-20-18-34-46(48)58(64-60)51(39-25-9-3-10-26-39)56-44-32-16-14-30-42(44)54(49)62-56;/h1-36,61,64H;/q;+1
